US05025095
Synthesis of 2,4-Diallyl-6-Methoxyphenol
To the solution of 162.4 g (1 mol) of 4-allyl-2-methoxyphenol (Eugenol) in 500 ml of 1-propanol heated to 70° C., 40 g (1 mol) of NaOH pellets are added and the mixture is stirred at 90° C. until NaOH is dissolved. The solution is cooled to 70° C. and 95.6 g (1.25 mol) of allyl chloride are added dropwise. After that, the reaction mixture is refluxed at 90° C. for 3 hours, then filtered, and propanol distilled off. 500 ml of toluene are added to the residue and the obtained solution is washed with 10% NaOH in water. The toluene-water mixture is distilled off and 6.5 g of LiCl and 1.6 g of Na2CO3 are added. The reaction mixture is heated to 130° C. under vacuum and kept at this temperature for 1 hour, then filtered and distilled under vacuum. The product 2,4-diallyl-6-methoxyphenol is off-white, low viscosity liquid (viscosity is 7 cPs at 25° C.) having a boiling point of 109°-112° C. (2-3 mm Hg), the structure is confirmed by IR and NMR Data. Yield is 163 g (80%).

reactant | 4-allyl-2-methoxyphenol | 1 mol, 162.4 g | C(C=C)C1=CC(=C(C=C1)O)OC | C10H12O2
reactant | NaOH | 1 mol, 40 g | [OH-].[Na+]
reactant | allyl chloride | 1.25 mol, 95.6 g | C(C=C)Cl | C3H5Cl
solvent | 1-propanol | 500 ml | C(CC)O | C3H8O
product | 2,4-Diallyl-6-Methoxyphenol | C(C=C)C1=C(C(=CC(=C1)CC=C)OC)O | C13H16O2
